US07449477B2
7-Phenyl-isoquinoline-5-sulfonic acid {2-[3-(4-nitro-phenyl)-propylamino]-ethyl}-amide, dihydrochloride
Bubble gaseous HCl through a solution of [3-(4-Nitro-phenyl)-propyl]-[2-(7-phenyl-isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester (1.9 g, 2.9 mmol) in methanol/dichloromethane (1:1) with cooling for 15 minutes. Remove the solvent under reduced pressure to afford the title compound as a foam.

reactant | HCl | Cl | ClH
reactant | [3-(4-Nitro-phenyl)-propyl]-[2-(7-phenyl-isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester | 2.9 mmol, 1.9 g | C(C)(C)(C)OC(N(CCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC=CC=C1)CCCC1=CC=C(C=C1)[N+](=O)[O-])=O | C31H34N4O6S
solvent | methanol dichloromethane | CO.ClCCl
product | 7-Phenyl-isoquinoline-5-sulfonic acid {2-[3-(4-nitro-phenyl)-propylamino]-ethyl}-amide, dihydrochloride | Cl.Cl.[N+](=O)([O-])C1=CC=C(C=C1)CCCNCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC=CC=C1 | InChI=1S/C26H26N4O4S.2ClH/c31-30(32)24-10-8-20(9-11-24)5-4-13-27-15-16-29-35(33,34)26-18-22(21-6-2-1-3-7-21)17-23-19-28-14-12-25(23)26;;/h1-3,6-12,14,17-19,27,29H,4-5,13,15-16H2;2*1H
